US07179823B1
A mixture of ethyl(E)-3-[1-(4-benzyloxybenzyl)-3-(4-fluorophenyl)-1H-pyrazol-4-yl]propenoate (10.0 g), 5% palladium-carbon (20.0 g), ethanol (100 ml) and tetrahydrofuran (100 ml) was stirred for 1 hour under a hydrogen atmosphere. After the palladium-carbon was removed by filtration, the filtrate was concentrated to obtain ethyl 3-[3-(4-fluorophenyl)-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate (7.15 g, yield 88%) as a colorless oily substance.

reactant | ethyl(E)-3-[1-(4-benzyloxybenzyl)-3-(4-fluorophenyl)-1H-pyrazol-4-yl]propenoate | 10.0 g | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)/C=C/C(=O)OCC)C2=CC=C(C=C2)F)C=C1 | C28H25FN2O3
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 20.0 g | [C].[Pd]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 3-[3-(4-fluorophenyl)-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate | 7.15 g, yield 88% | FC1=CC=C(C=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)O | C21H21FN2O3
